US04297350
17β-Methoxy-2α-methylandrost-4-en-3-one (I)
Testosterone (50 g.) in DMF (500 ml.) is cooled to 5° in an ice bath and silver oxide (58 g.) and N,N-diisopropylethylamine (85 ml.) are added. The mixture is stirred and methyl iodide (142 g., 62 ml.) is added in a slow stream. The temperature remains about 5° initially, the stirring is continued without further addition of ice to the bath and the mixture comes to 20°-25°. After 18 hours, diethyl ether (2 l.) is added and the mixture is filtered thru a bed of celite. The filtrate is washed successively with water, dilute hydrochloric acid, again with water, dried over sodium sulfate, filtered and concentrated. The concentrate is column chromatographed over silica gel (1 kg.) eluting by a gradient between SSB (5 l.) and SSB-ethyl acetate (80:20, 5 l.). The appropriate fractions (TLC) are pooled and concentrated to give the title compound; m.p. 130°-145°; UV (ethanol) λ=240 nm (ε=15,000); IR (mull) 1670 cm-1 ; NMR (CDCl3) 0.8, 1.1, 1.21, 3.26, 3.32, and 5.71 δ; MS (m/e) 316.

reactant | Testosterone | 50 g | C[C@]12CC[C@H]3[C@H]([C@@H]1CC[C@@H]2O)CCC4=CC(=O)CC[C@]34C | C19H28O2
reactant | N,N-diisopropylethylamine | 85 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | methyl iodide | 62 ml, 142 g | CI | CH3I
reactant | diethyl ether | 2 l | C(C)OCC | C4H10O
solvent | DMF | 500 ml | CN(C)C=O | C3H7NO
catalyst | silver oxide | 58 g | [Ag]=O
product | 17β-Methoxy-2α-methylandrost-4-en-3-one | CO[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CCC3=CC([C@@H](C[C@]3(C)[C@H]1CC2)C)=O | C21H32O2
